US08115006B2
(3) Preparation of 2-amino-3-bromo-5-chloro-N-(1-cyclopropylethyl)benzamide
0.1 g of 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide was dissolved in 3 ml of N,N-dimethylformamide and cooled to 0° C. 0.02 g of sodium hydride was added, followed by stirring for one hour, and 0.09 g of bromine was added, followed by stirring for 2 hours. The reaction liquid was added to a 1 M-HCl aqueous solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/0 to 1/1) to obtain 0.08 g of the pale yellow desired produce (melting point: 177° C.).

reactant | 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide | 0.1 g | NC1=C(C(=O)NC(C)C2CC2)C=C(C=C1)Cl | C12H15ClN2O
reactant | sodium hydride | 0.02 g | [H-].[Na+]
reactant | bromine | 0.09 g | BrBr | Br2
reactant | HCl | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-amino-3-bromo-5-chloro-N-(1-cyclopropylethyl)benzamide | NC1=C(C(=O)NC(C)C2CC2)C=C(C=C1Br)Cl | C12H14BrClN2O
